US06921763B2
To a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (5.00 g, 19.1 mmol) in DMF (40 mL) was added sodium hydride (60%, 1.53 g, 38.3 mmol) and the reaction mixture was stirred for 20 min. 2-bromoethanol (1.50 mL, 21.1 mmol) was added and the reaction mixture was heated at 50° C. for 18 h. The reaction mixture was cooled to ambient temperature and concentrated to afford a brown sludge. Ice water (50 mL) was added and the resulting precipitate was collected by filtration, rinsed with water (50 mL) and ether (50 mL), and dried in vacuo to afford 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-ethanol as a beige solid (4.30 g, 14.1 mmol): 1H NMR (d6-DMSO, 400 MHz): δH 8.19 (1H, s), 4.84 (1H, t, J=5.8 Hz), 4.30 (1H, t, J=5.8 Hz), and 3.77 (2H, app q, J=5.6 Hz); RP-HPLC (Hypersil C18, 5 μm, 100 Å, 15 cm; 5%-100% acetonitrile-0.1 M ammonium acetate over 15 min, 1 mL/min). Rt 7.35 min.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 19.1 mmol, 5.00 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | sodium hydride | 38.3 mmol, 1.53 g | [H-].[Na+]
reactant | 2-bromoethanol | 21.1 mmol, 1.50 mL | BrCCO | C2H5BrO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-ethanol | 14.1 mmol, 4.30 g | NC1=C2C(=NC=N1)N(N=C2I)CCO | C7H8IN5O
